US06858638B2
5-Amino-3-benzylamino-1H-indazole can be obtained as described in Example 4 from 0.6 g of 3-benzylamino-5-nitro-1H-indazole, 22 ml of ethanol, 4.5 g of ferrous sulfate, 7 ml of water and 5.4 ml of 32% aqueous ammonia. 0.15 g of 5-amino-3-benzylamino-1H-indazole is thus obtained in the form of a brown powder melting at 196° C.

reactant | 3-benzylamino-5-nitro-1H-indazole | 0.6 g | C(C1=CC=CC=C1)NC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C14H12N4O2
reactant | ethanol | 22 ml | C(C)O | C2H6O
reactant | ammonia | 5.4 ml | N | H3N
solvent | water | 7 ml | O | H2O
product | 5-amino-3-benzylamino-1H-indazole | 0.15 g | NC=1C=C2C(=NNC2=CC1)NCC1=CC=CC=C1 | C14H14N4
